US07268135B2
2-[4′-(Benzothiazol-2-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid
Step 4B 2-[4′-(Benzothiazol-2-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester (140 mg, 0.25 mml) was dissolved in 6 mL of methylene chloride followed by the addition of TFA (3 mL) The reaction was complete in 6 hrs as determined by TLC. Solvent was removed and the residue was dissolved in EtOAc. n-Hexane was added into the solution and solid precipitated from the mixture. The precipitate was collected and dried to afford 86 mg of in 68% yield.

reactant | 2-[4′-(Benzothiazol-2-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid tert-butyl ester | 140 mg | C(C)(C)(C)OC(C(C(C)C)NS(=O)(=O)C1=CC=C(C=C1)C1=CC=C(C=C1)COC=1SC2=C(N1)C=CC=C2)=O | C29H32N2O5S2
reactant | TFA | 3 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | methylene chloride | 6 mL | C(Cl)Cl | CH2Cl2
product | 2-[4′-(Benzothiazol-2-yloxymethyl)-biphenyl-4-sulfonylamino]-3-methyl-butyric acid | S1C(=NC2=C1C=CC=C2)OCC2=CC=C(C=C2)C2=CC=C(C=C2)S(=O)(=O)NC(C(=O)O)C(C)C | C25H24N2O5S2
